US05550276
Synthesis of dioctyl 2-dodecylthio-1-hydroxy-1-methylethanephosphonate
25.6 g (83.6 mmol) of dioctyl phosphite are initially introduced into 100 ml of tert-butyl methyl ether, 0.4 g of sodium tert-butanolate are added, and 20.0 g (77.4 mmol) of dodecylthioacetone are subsequently introduced.

reactant | dioctyl phosphite | 83.6 mmol, 25.6 g | P(OCCCCCCCC)(OCCCCCCCC)[O-]
reactant | sodium tert-butanolate | 0.4 g | C(C)(C)(C)[O-].[Na+]
reactant | dodecylthioacetone | 77.4 mmol, 20.0 g | C(CCCCCCCCCCC)CC(C)=S | C15H30S
solvent | tert-butyl methyl ether | 100 ml | COC(C)(C)C | C5H12O
product | dioctyl 2-dodecylthio-1-hydroxy-1-methylethanephosphonate | C(CCCCCCCCCCC)SCC(P(OCCCCCCCC)(=O)OCCCCCCCC)(C)O | C31H65O4PS
